US07148173B2
A suspension of 1.5 g (6.5 mmol) of lithium [1-(2-trimethylsiloxyethyl)indenide] in ether was added to a suspension of 2.2 g (6.5 mmol) of pentamethylcyclopentadienyl zirconium trichloride in 100 ml of ether at 0° C. After 30 minutes, the formation of a white solid was the volatiles were removed under vacuum to give a yellow oily-solid. This solid was recrystallized in hexane to give a mycrocristalline yellow solid, which was characterized as [1-(2-trimethylsiloxyethyl)indenyl]pentamethylcyclopentadienyl zirconium dichloride (1.7 g, 3.2 mmol, yield: 49%). 1H-NMR (CDCl3): 7.65 (m, 1H); 7.33 (m, 1H); 7.25 (m, 2H); 6.08 (m, 1H); 5.92 (m, 1H); 3.72 (dm, 2H); 3.28 (m, 1H); 2.72 (m, 1H); 2.04 (s, 15H); 0.03 (s, 9H). 13C-NMR (CDCl3): 131.4; 127.1; 126.7; 125.2; 125.1; 124.2; 123.5; 122.6; 116.1; 97.0; 62.6; 32.1; 12.5; −0.6.

reactant | lithium [1-(2-trimethylsiloxyethyl)indenide] | 6.5 mmol, 1.5 g | C[Si](OCC[C-]1C=CC2=CC=CC=C12)(C)C.[Li+]
reactant | pentamethylcyclopentadienyl zirconium trichloride | 6.5 mmol, 2.2 g | [Cl-].[Cl-].[Cl-].C[Zr](C1C=CC=C1)(C)(C)(C)C
solvent | ether | CCOCC | C4H10O
solvent | ether | 100 ml | CCOCC | C4H10O
product | [1-(2-trimethylsiloxyethyl)indenyl]pentamethylcyclopentadienyl zirconium dichloride | 3.2 mmol, 1.7 g, yield: 49% | [Cl-].[Cl-].C[Si](OCCC1C(=CC2=CC=CC=C12)[Zr](C1C=CC=C1)(C)(C)(C)(C)C)(C)C | InChI=1S/C14H19OSi.C5H5.5CH3.2ClH.Zr/c1-16(2,3)15-11-10-13-9-8-12-6-4-5-7-14(12)13;1-2-4-5-3-1;;;;;;;;/h4-8,13H,10-11H2,1-3H3;1-5H;5*1H3;2*1H;/p-2
